US05041673
Trans-2-terbutoxycarbonylamino-1,2,3,4-tetrahydro-3-phenanthrenol
To a suspension of trans-2-amino 1,2,3,4-tetrahydro-3-phenanthrenol hydrochloride (315 mg) and diterbutyl dicarbonate (308 mg) in methanol (5 ml) was added dropwise a solution of triethylamine (153 mg) in methanol (5 ml). The resulting mixture was stirred for 11/2hours at room temperature and concentrated under vacuum. Water was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over magnesium sulfate Evaporation of solvents yielded the crude title compound (0.42 g) which was purified by chromatography on silica gel [100 g, elution with ethyl acetate:cyclohexane, 1:9 (0.5 1), 1:4 (1 1) and 3:7 (0.7 1)]. Evaporation of solvents yielded the title compound as a yellow solid (245 mg). Recrystallization in an ethyl acetate/ cyclohexane mixture yielded pure trans 2-terbutoxycarbonyl-amino-1,2,3,4-tetrahydro-3-phenanthrenol as a white solid (183 mg).

reactant | trans-2-amino 1,2,3,4-tetrahydro-3-phenanthrenol hydrochloride | 315 mg | Cl.N[C@@H]1CC=2C=CC3=CC=CC=C3C2C[C@H]1O
reactant | diterbutyl dicarbonate | 308 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 153 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | Trans-2-terbutoxycarbonylamino-1,2,3,4-tetrahydro-3-phenanthrenol | 245 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC=2C=CC3=CC=CC=C3C2C[C@H]1O | C19H23NO3
